US06432949B1
6-chloro-N-[2-methyl-5-(3-morpholino-5-trifluoromethylbenzamido)phenyl]pyridine-3-carboxamide
Using an analogous procedure to that described in Example 2 except that the reaction mixture was heated to 100° C. for 2 hours, 6-chloropyridine-3-carbonyl chloride was reacted with N-(3-amino4-methylphenyl)-3-morpholino-5-trifluoromethylbenzamide. The reaction mixture was partitioned between ethyl acetate and water. The organic phase was dried over magnesium sulphate and evaporated. The residue was triturated under a mixture of isohexane and diethyl ether. There was thus obtained the title compound in 63% yield; NMR Spectrum: (DMSOd6): 2.2 (s, 3H), 3.3 (m, 4H) 3.75 (t, 4H), 7.25 (d, 1H), 7.35 (s, 1H), 755-7.65 (m, 1H), 7.65 (s, 1H), 7.7-7.75 (m, 2H), 7.8 (d, 1H), 8.35-8.4 (m, 1H), 8.95 (d, 1H), 10.15 (s, 1H), 10.33 (s, 1H); Mass Spectrum M+H+ 519 and 521.

reactant | 6-chloropyridine-3-carbonyl chloride | ClC1=CC=C(C=N1)C(=O)Cl | C6H3Cl2NO
reactant | N-(3-amino4-methylphenyl)-3-morpholino-5-trifluoromethylbenzamide | NC=1C=C(C=CC1C)NC(C1=CC(=CC(=C1)C(F)(F)F)N1CCOCC1)=O | C19H20F3N3O2
product | 6-chloro-N-[2-methyl-5-(3-morpholino-5-trifluoromethylbenzamido)phenyl]pyridine-3-carboxamide | 63% yield | ClC1=CC=C(C=N1)C(=O)NC1=C(C=CC(=C1)NC(C1=CC(=CC(=C1)C(F)(F)F)N1CCOCC1)=O)C | C25H22ClF3N4O3
